US06107329
(±)-5-Chloro-1H-indole-2-carboxylic acid [1-(3-chloro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide
From 5-chloro-1H-indole-2-carboxylic acid and (±)-2-amino-1-(4-hydroxy-piperidin-1-yl)-3-(3-chloro-phenyl)-propan-1-one. mp 98° C. dec.

reactant | 5-chloro-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | (±)-2-amino-1-(4-hydroxy-piperidin-1-yl)-3-(3-chloro-phenyl)-propan-1-one | NC(C(=O)N1CCC(CC1)O)CC1=CC(=CC=C1)Cl | C14H19ClN2O2
product | (±)-5-Chloro-1H-indole-2-carboxylic acid [1-(3-chloro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide | ClC=1C=C(CC(C(=O)N2CCC(CC2)O)NC(=O)C=2NC3=CC=C(C=C3C2)Cl)C=CC1 | C23H23Cl2N3O3
